US20010047099A1
C. Preparation of Methyl 4-amino-3-chloro-6-(3,5-dichlorophenoxy)pyridine-2-carboxylate
Methyl 3,4-dichloro-6-(3,5-dichlorophenoxy)pyridine-2-carboxylic acid (1.93 g, 5.26 mmol) was dissolved in a minimum amount of DMF and to it was carefully added NaN3 (0.444 g, 6.84 mmol) and water to form a homogeneous mixture which was heated to 70° C. and stirred overnight. The reaction mixture was poured into a water-ice mixture and the product was extracted with ethyl acetate (3×100 mL). The combined extracts were washed with pet ether/water (200 mL), dried (MgSO4) and concentrated to dryness in vacuo. The resulting oil was dissolved in methanol and to it was added NaBH4 (0.200 g, 5.26 mmol) and stirred at RT for 1.5 hr. Ethyl acetate and water was added and the aqueous phase was extracted with ethyl acetate (2×100 mL). The combined extracts were dried (MgSO4) and concentrated to dryness. Purification by column chromatography (silica gel) using an eluent of 20% diethyl ether/hexane-50% diethyl ether/hexane to give 0.900 g of clear solid.

reactant | Methyl 3,4-dichloro-6-(3,5-dichlorophenoxy)pyridine-2-carboxylic acid | 5.26 mmol, 1.93 g | CC=1C(=C(C(=NC1OC1=CC(=CC(=C1)Cl)Cl)C(=O)O)Cl)Cl | C13H7Cl4NO3
reactant | NaN3 | 6.84 mmol, 0.444 g | [N-]=[N+]=[N-].[Na+]
reactant | NaBH4 | 5.26 mmol, 0.200 g | [BH4-].[Na+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | Methyl 4-amino-3-chloro-6-(3,5-dichlorophenoxy)pyridine-2-carboxylate | 0.900 g | NC1=C(C(=NC(=C1)OC1=CC(=CC(=C1)Cl)Cl)C(=O)OC)Cl | C13H9Cl3N2O3
